Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
Diagnostic paracentesis

 
History of Present Illness:
___ with HTN and recently diagnoses HepC cirrhosis and 
metastatic HCC who presents with N/V. Per report symptoms began 
approximately 2 days ago. Emesis is no bloody in nauture and 
associated with midepigastic discomfort. She reports she has 
been having regular bowel movements. She denies chest pain, 
shortness of breath, or urinary symptoms. She reported to an OSH 
where labs were notable for a bili of 6 from a value of 3.9 at 
discharge, a HCT of 40 and sodium of 130. She was given 500 mL 
of normal saline, morphine 4 mg IV x 2 and 4 mg of zofran x 2 
and transferred to ___ for further management.  
Of note pt was recently admitted to ___ in ___ with 
intractable N/V at which time she was found to have labs c/w 
cirrhosis. HCV VL that admission was 3.4 million. CT abd/pelvis 
showed cirrhosis and raises concern for HCC with mets to 
lung/colon, subsequent liver bx showed HCC. Pt was also found to 
have a portal vein thrombus. She was briefly anticoagulated but 
developed guaiac stools and anticoagulation was stopped. She was 
discharged on antiemetics and pain medications.  
 
In the ED, initial vs were: 98.2 111 103/61 24 94% 2L (patient 
is not on home O2). Labs were remarkable for Na 129 (131 at 
recent discharge), AST/ALT 352/90 (c/w last admission), Tbili 
6.3. Patient was given zofran, morphine. Dx para was negative 
for evidence of SBP. Vitals on Transfer: 96 126/64 16 92%.  
 
On the floor, the patient was sleepy but arousable. She denied 
current pain.  
 
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. Ten 
point review of systems is otherwise negative.  

 
Past Medical History:
-HTN  
-HepC cirrhosis  
-Metastatic ___ 
 
Social History:
___
Family History:
Son has esophageal cancer, in remission currently. No pancreatic 
or any other cancers in the family.
 
 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: T: 98.3 BP: 145/67 P: 112 R: 18 O2: 93% 2L  
General: Sleepy appearing female, oriented, no acute distress  
HEENT: Sclera midly icteric, dry mucous membranes, oropharynx 
clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: diffuse wheezes  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: distended, + fluid wave, mildly ttp in epigastrum  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: No asterixis 

DISCHARGE Vitals: 98.3  132/69  93  20  98/RA
I/O:   ___ (ON)   350/500+  BMx2  (24) 
General: Sleepy appearing frail elderly female, oriented, no 
acute distress. conversational.  
HEENT: Sclera midly icteric, dry mucous membranes, oropharynx 
clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: occ rhonchi with diffuse wheezing, poor resp effort
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: distended, + fluid wave, mildly ttp in epigastrum  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: No asterixis  
 
 
Pertinent Results:
ADMISSION LABS
___ 10:44PM BLOOD WBC-9.1# RBC-4.63 Hgb-13.1 Hct-41.6 
MCV-90 MCH-28.3 MCHC-31.6 RDW-16.8* Plt ___
___ 10:44PM BLOOD Neuts-69 Bands-7* Lymphs-14* Monos-7 
Eos-0 Baso-0 Atyps-3* ___ Myelos-0
___ 06:40AM BLOOD ___ PTT-33.2 ___
___ 10:44PM BLOOD Glucose-135* UreaN-20 Creat-0.7 Na-129* 
K-4.9 Cl-97 HCO3-20* AnGap-17
___ 10:44PM BLOOD ALT-90* AST-352* CK(CPK)-101 AlkPhos-251* 
TotBili-6.3* DirBili-4.3* IndBili-2.0
___ 06:40AM BLOOD Lipase-10
___ 10:44PM BLOOD CK-MB-3 cTropnT-<0.01
___ 10:44PM BLOOD Albumin-2.9* Calcium-8.6 Phos-3.3 Mg-2.0

DISCHARGE LABS
___ 08:03AM BLOOD D-Dimer-2407*
___ 06:20AM BLOOD WBC-9.2 RBC-3.93* Hgb-11.4* Hct-34.9* 
MCV-89 MCH-28.9 MCHC-32.5 RDW-17.6* Plt ___
___ 06:20AM BLOOD ___
___ 06:20AM BLOOD Glucose-94 UreaN-25* Creat-0.6 Na-131* 
K-4.7 Cl-98 HCO3-20* AnGap-18
___ 06:20AM BLOOD ALT-67* AST-294* AlkPhos-157* 
TotBili-6.7*
___:20AM BLOOD Calcium-9.3 Phos-2.4* Mg-2.6

LABS PENDING AT DISCHARGE
VRE swab

MICRO DATA
___ 12:32 am PERITONEAL FLUID

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

IMAGING
___ chest xray 
the right hemidiaphragm is mildly elevated.  There is volume 
loss at both 
bases.  Heart size is normal.  The aorta is slightly calcified.  
There is mild pulmonary vascular redistribution.  Old rib 
fractures are noted on the right.  There is hazy increased 
opacity in the right lung which could be due to volume loss or 
infiltrate.  Is increased opacity at the left CP angle could 
represent metastatic disease or small infiltrate or effusion.  
The known metastatic disease with multiple lung nodules are 
better visualized on the prior CT. 

 
Brief Hospital Course:
___ with HTN and newly diagnosed HCV cirrhosis and metastatic 
HCC who presents with poorly controlled abd pain and 
nausea/vomiting.  

# Metastatic Stage IV HCC, HCV cirrhosis: Pt with ongoing N/V 
likely related to her metastatic HCC. Diagnostic paracentesis 
negative for SBP. Family meeting was held in conjunction with 
Palliative care service with plan to transition to home hospice 
and focus on comfort care measures only. Prognosis very poor and 
given the rapidity of her decline, life expectancy of weeks to 
months was relayed to the family who supported patient's wish to 
return home as soon as possible.  Pt was made DNR/DNI. There was 
no evidence of acute process and it was felt that her symptoms 
are secondary to her end stage underlying malignancy. She 
responded well to low dose oral dilaudid (standing) for pain. 
She received compazine and reglan for antiemetics with good 
control. She exhibited poor appetite and the family was 
encouraged to focus on comfort eating - small bites, frequently 
throughout the day and de-emphasized focus on nutrition. No 
indication for percutaneous gastric or jejunal feeding tube 
given her ascites. Family deferred nasogastric ___ given her 
current goals of care and ongoing nausea.  Her current bilirubin 
level would exclude any palliative chemotherapy.  Further w/u of 
her elevated bilirubin with repeat CT scan to assess for biliary 
obstruction and possible percutaneous drain placement were 
declined by the patient and her family.   

# Hypoxia- patient with new O2 requirement in the setting of 
mild tachycardia. She is wheezy on exam. most likely related to 
high degree of malignant pulmonary infiltrate. She was treated 
with albuterol nebulizer treatments with plan for treatment of 
any SOB or air hunger with opioids. 
 
# Hyponatremia: Na 129 at admission, largely unchanged from 131 
at recent admission. Na improved with IVF last admission. Most 
likely hypovolemic hyponatremia ___ poor po intake. Improved 
with colloid administration consistent with hypovolemia. 

# HCV Cirrhosis with metastatic HCC: LFTs at recent baseline, 
bili elevated compared to prior. Not anticoagulated for portal 
vein thrombosis as it is not clear if this is tumor or clot. 
Given short life expectancy and risk of bleeding, will continue 
to hold anticoagulation.  
 
# CODE:  DNR/DNI, comfort measures only
# CONTACT: ___ (husband) ___  

+
=
=
=
=
=
=
=
=
=
================================================================
Transitional issues
- dc home with hospice
- Pain control with oral dilaudid, decadron. Antiemetics with 
compazine, reglan. 
 
Medications on Admission:
1. Docusate Sodium 100 mg PO BID 
2. Omeprazole 20 mg PO DAILY 
3. Ondansetron 8 mg PO TID 
4. Senna 1 TAB PO BID 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
please do not drive when taking this medication, it will make 
you sleepy 
6. Bisacodyl 10 mg PO DAILY:PRN constipation 

 
Discharge Medications:
1. Bisacodyl 10 mg PO DAILY:PRN constipation 
RX *bisacodyl [Dulcolax] 5 mg 2 tablet,delayed release 
(___) by mouth daily Disp #*30 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*30 Capsule Refills:*0
3. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule,delayed ___ by 
mouth daily Disp #*30 Capsule Refills:*0
4. Senna 1 TAB PO BID 
RX *sennosides [___] 8.6 mg 1 tab by mouth twice daily 
Disp #*30 Tablet Refills:*0
5. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath  
6. Dexamethasone 2 mg PO Q12H 
RX *dexamethasone 2 mg 1 tablet(s) by mouth twice daily Disp 
#*30 Tablet Refills:*0
7. Guaifenesin ER 600 mg PO Q12H:PRN cough, congestion 
RX *guaifenesin 600 mg 1 tablet extended release(s) by mouth 
twice daily Disp #*30 Tablet Refills:*0
8. HYDROmorphone (Dilaudid) 0.5 mg PO Q4H 
RX *hydromorphone [Dilaudid] 1 mg/mL 0.5 (One half) ml by mouth 
q4 Disp ___ Milliliter Refills:*0
9. Metoclopramide 5 mg PO TID 
RX *metoclopramide HCl 5 mg 1 tablet by mouth three times daily 
Disp #*30 Tablet Refills:*0
10. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 17 grams by 
mouth daily Disp #*1 Bottle Refills:*0
11. Prochlorperazine 10 mg PO Q6H:PRN nausea 
RX *prochlorperazine maleate 10 mg 1 tablet(s) by mouth every 6 
hours Disp #*30 Tablet Refills:*0
12. Prochlorperazine 25 mg PR Q12H:PRN nausea 
RX *prochlorperazine 25 mg 1 Suppository(s) rectally twice daily 
Disp #*30 Suppository Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Metastatic/Stage IV HCC
HCV cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
It was a pleasure taking care of you at ___. You were admitted 
with abdominal pain, nausea, and vomiting that are most likely 
related to your cancer. This cancer is called hepatocellular 
carcinoma and is widely spread. As a result, we focused on 
prioritizing your comfort and coming up with a regimen to treat 
your symptoms that will hopefully allow you be at home. 

Palliative care service was consulted and we have come up with 
the following plan for your pain and nausea.
For pain: oral dilaudid 
For nausea: compazine suppositories/tablets, reglan tablets, 
decadron

Please see the appointments below. 
 
Followup Instructions:
___